US07795437B2
Tetrahydro-pyran-4-carboxylic acid trans(4-{2-[4-(2,4,5-trifluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide
According to the synthesis of example 19 the title compound was prepared from Trans(4-{2-[4-(2,4,5-trifluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amine and tetrahydro-pyran-4-carboxylic acid. Preparative HPLC on reversed phase eluting with acetonitrile/water yielded the title compound. MS (m/e): 469.5 (M+H+).

reactant | Trans(4-{2-[4-(2,4,5-trifluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amine | FC1=C(OC2CCN(CC2)CC[C@@H]2CC[C@H](CC2)N)C=C(C(=C1)F)F | C19H27F3N2O
reactant | tetrahydro-pyran-4-carboxylic acid | O1CCC(CC1)C(=O)O | C6H10O3
product | Tetrahydro-pyran-4-carboxylic acid trans(4-{2-[4-(2,4,5-trifluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide | FC1=C(OC2CCN(CC2)CC[C@@H]2CC[C@H](CC2)NC(=O)C2CCOCC2)C=C(C(=C1)F)F | C25H35F3N2O3
